US05153214
To a solution of methyl (S)-8-(benzyloxy)-4-(2-hydroxyethyl)octanoate (1.61 g, 5.2 mmol) in methylene chloride (20 ml) is added 3-hydroxypyridine (0.51 g, 5.4 mmol) and triphenylphosphine (1.82 g, 7 mmol). The mixture is stirred at room temperature for 10 minutes and then diisopropyl azodicarboxylate (1.05 ml, 5.3 mmol) is added slowly. The mixture is allowed to stir for 2 hours and the solvent is evaporated. The residue is purified by flash chromatography on silica gel using 1:1 ethyl acetate/hexane as eluent to obtain methyl (S)-8-(benzyloxy)-4-[2-(3-pyridyloxy)ethyl]octanoate; IR (CH2CL2): 1732, 1280, 1230, 1102 cm-1.

reactant | methyl (S)-8-(benzyloxy)-4-(2-hydroxyethyl)octanoate | 5.2 mmol, 1.61 g | C(C1=CC=CC=C1)OCCCC[C@@H](CCC(=O)OC)CCO | C18H28O4
reactant | 3-hydroxypyridine | 5.4 mmol, 0.51 g | OC=1C=NC=CC1 | C5H5NO
reactant | triphenylphosphine | 7 mmol, 1.82 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 5.3 mmol, 1.05 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | methyl (S)-8-(benzyloxy)-4-[2-(3-pyridyloxy)ethyl]octanoate | C(C1=CC=CC=C1)OCCCC[C@@H](CCC(=O)OC)CCOC=1C=NC=CC1 | C23H31NO4
